US06458780B1
b) 7-Pivaloyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
A 1.6 N n-butyllithium/n-hexane solution (2.9 ml) was added to a solution of 0.92 g of 7-pivaloylimidazo[5,1-b]thiazole in 20 ml of dry THF in an argon atmosphere at −50° C. The mixture was stirred at the same temperature for 20 min. Tri-n-butylstannyl chloride (1.3 ml) was added thereto, followed by stirring for 20 min. A saturated aqueous ammonium chloride solution was added to the reaction mixture. Ethyl acetate was added thereto. The mixture was washed with water and saturated brine in that order. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:3) to give 0.82 g of the title compound.

reactant | n-butyllithium n-hexane | 1.6 N, 2.9 ml | C(CCC)[Li].CCCCCC
reactant | 7-pivaloylimidazo[5,1-b]thiazole | 0.92 g | C(C(C)(C)C)(=O)C=1N=CN2C1SC=C2 | C10H12N2OS
reactant | Tri-n-butylstannyl chloride | 1.3 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Pivaloyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 0.82 g | C(C(C)(C)C)(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C10H11N2OS.3C4H9.Sn/c1-10(2,3)8(13)7-9-12(6-11-7)4-5-14-9;3*1-3-4-2;/h4,6H,1-3H3;3*1,3-4H2,2H3;
